US07238676B2
(2R,3R,4S,5S)-4-(Benzoyloxy)-2-(2-cyano-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate
Diazabicycloundecane (0.18 ml, 1.2 mmol) was added to a solution of (6-[(1-naphthylmethyl)amino]-9H-purine-2-carbonitrile (200 mg, 0.67 mmol) (Preparation 10) and (2S,3S,4R,5R)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate and (2S,3S,4R,5S)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (309 mg, 0.70 mmol) (Preparation 18) in acetonitrile (5 ml). Trimethylsilyl trifluoromethanesulfonate (0.24 ml, 1.33 mmol) was added and the reaction mixture heated under reflux for 30 minutes. The reaction mixture was then allowed to cool to room temperature, diluted with ethyl acetate (20 ml) and washed twice with water (20 ml). The ethyl acetate layer was then washed with 10% w/w aqueous citric acid and saturated aqueous sodium chloride solution (20 ml). The organic phase was dried over anhydrous magnesium sulphate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane increasing in polarity to dichloromethane:methanol (98:2 by volume). The solvent was removed under reduced pressure to give the title compound (235 mg) as a foam.

reactant | Diazabicycloundecane | 1.2 mmol, 0.18 ml | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
reactant | 6-[(1-naphthylmethyl)amino]-9H-purine-2-carbonitrile | 0.67 mmol, 200 mg | C1(=CC=CC2=CC=CC=C12)CNC1=C2N=CNC2=NC(=N1)C#N | C17H12N6
reactant | (2S,3S,4R,5R)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C)=O)C(=O)NCC | C23H23NO8
reactant | (2S,3S,4R,5S)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 0.70 mmol, 309 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C)=O)C(=O)NCC | C23H23NO8
reactant | Trimethylsilyl trifluoromethanesulfonate | 1.33 mmol, 0.24 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R,4S,5S)-4-(Benzoyloxy)-2-(2-cyano-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 235 mg | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC1=CC=CC2=CC=CC=C12)C#N | C38H31N7O6
